US08669255B2
(2S,4R)-tert-butyl 4-hydroxy-2-(tosyloxymethyl)pyrrolidine-1-carboxylate
(2S,4R)-tert-Butyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate (500 mg, 2.3 mmol) in pyridine (20 mL) was cooled to 0° C. and treated with a solution of p-toluenesulfonyl chloride (483 mg, 2.53 mmol) in pyridine (5 mL) added over a period of 1 hour. The reaction was allowed to slowly warm to ambient temperature with continued stirring for 48 hours. The resulting material was triturated with ethyl acetate and purified by flash chromatography on a 12 g silica gel column, eluting with 5% ethyl acetate/hexanes for 3 minutes followed by a gradient to 100% ethyl acetate over 20 minutes to afford the title compound as an oil (397 mg; 64%). 1H NMR (300 MHz, DMSO-d6) δ ppm 7.82-7.69 (m, 2H), 7.48 (d, J=7.9 Hz, 2H), 4.92 (d, J=2.8 Hz, 1H), 4.23-3.82 (m, 4H), 3.12 (dd, J=25.5, 13.9 Hz, 2H), 2.42 (d, J=3.6 Hz, 3H), 1.87 (d, J=20.3 Hz, 2H), 1.35 (dd, J=23.0, 13.0 Hz, 9H).

reactant | (2S,4R)-tert-Butyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 2.3 mmol, 500 mg | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C10H19NO4
reactant | p-toluenesulfonyl chloride | 2.53 mmol, 483 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | (2S,4R)-tert-butyl 4-hydroxy-2-(tosyloxymethyl)pyrrolidine-1-carboxylate | 397 mg, 64% | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1 | C17H25NO6S
